US07569577B2
N-(3-Chloro-2-fluorophenyl)-6-methoxy-7-({(3S)-1-[(4-methylpiperazin-1-yl)acetyl]piperidin-3-yl}oxy)quinazolin-4-amine
Chloroacetyl chloride (47 μl) was added to a solution of N-(3-chloro-2-fluorophenyl)-6-methoxy-7-[(3S)-piperidin-3-yloxy]quinazolin-4-amine dihydrochloride (250 mg) and diisopropylethylamine (373 μl) in methylene chloride (10 ml) and the mixture was stirred at ambient temperature for 1 hour. 1-Methylpiperazine (228 mg) was added, and the solution stirred for 1 hour before being washed with aqueous sodium hydroxide (2M, 10 ml) and water (10 ml). The organics were then purified by flash column chromatography eluting with methylene chloride/7N ammonia solution in methanol (97/3) to give a foam. This was re-precipitated by stirring in diethyl ether (20 ml) to give the title product as a white solid (0.135 g); 1H NMR Spectrum: (DMSO d6) 1.42-1.67 (m, 1H), 1.70-1.95 (m, 2H), 1.98-2.48 (m, 9H), 2.18 (s, 3H), 2.82-3.05 (m, 1H), 3.20-4.02 (m, 8H), 4.68 (m, 1H,), 7.30 (m, 1H), 7.34 (s, 1H), 7.44-7.60 (m, 2H), 7.82 (m, 1H), 8.38 (s, 1H), 9.64 (m, 1H); Mass Spectrum: (M+H)+ 543; melting point 120 to 121° C.

reactant | Chloroacetyl chloride | 47 μl | ClCC(=O)Cl | C2H2Cl2O
reactant | N-(3-chloro-2-fluorophenyl)-6-methoxy-7-[(3S)-piperidin-3-yloxy]quinazolin-4-amine dihydrochloride | 250 mg | Cl.Cl.ClC=1C(=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)OC)O[C@@H]1CNCCC1)F
reactant | diisopropylethylamine | 373 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-Methylpiperazine | 228 mg | CN1CCNCC1 | C5H12N2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | N-(3-Chloro-2-fluorophenyl)-6-methoxy-7-({(3S)-1-[(4-methylpiperazin-1-yl)acetyl]piperidin-3-yl}oxy)quinazolin-4-amine | 0.135 g | ClC=1C(=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)OC)O[C@@H]1CN(CCC1)C(CN1CCN(CC1)C)=O)F | C27H32ClFN6O3
